US08895745B2
2-Methoxy-N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide
To a solution of 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (1 g, 4.56 mmol) in THF (20 ml) was added triethylamine (0.95 ml, 6.84 mmol) and methoxyacetyl chloride (0.417 ml, 4.56 mmol) dropwise, the resulting mixture was stirred for 2 hours at RT. The reaction mixture was diluted with EtOAc and washed with water then brine, dried (Na2SO4) filtered and concentrated in vacuo to give the product (1.2 g) as an orange oil.

reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 4.56 mmol, 1 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | triethylamine | 6.84 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 4.56 mmol, 0.417 ml | COCC(=O)Cl | C3H5ClO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Methoxy-N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide | 1.2 g | COCC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H22BNO4
